US05480965
To a reaction apparatus equipped with a thermometer, reflux condenser and stirrer, 60 g (0.131 mol) of 3,3'-dinitro-4,4'-diphenoxybenzophenone, 150 g of methyl cellosolve and 3.0 g of 5%-Pd/C (50% moisture content) were charged and reacted in a hydrogen atmosphere at 70°~80° C. for 4 hours. After finishing the reaction, the catalyst was filtered and the filtrate was concentrated under reduced pressure to obtain 45 g (86 % yield) of 3,3'-diamino-4,4'-diphenoxybenzophenone as light yellow crystals.

reactant | 3,3'-dinitro-4,4'-diphenoxybenzophenone | 0.131 mol, 60 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC(=C(C=C2)OC2=CC=CC=C2)[N+](=O)[O-])C=CC1OC1=CC=CC=C1 | C25H16N2O7
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | methyl cellosolve | 150 g | COCCO | C3H8O2
product | 3,3'-diamino-4,4'-diphenoxybenzophenone | 45 g, 86 % yield | NC=1C=C(C(=O)C2=CC(=C(C=C2)OC2=CC=CC=C2)N)C=CC1OC1=CC=CC=C1 | C25H20N2O3
